### PR TITLE
[Merged by Bors] - chore: fix most phantom #aligns

### PR DESCRIPTION
**Pull request by rwbarton**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/WithOne/Defs.lean [hunk 1]
```diff
@@ -239,11 +239,13 @@ theorem coe_mul {α : Type u} [Mul α] {a b : α} : ((a * b : α) : WithZero α)
 -- prove it because we've just proved we're in MulZeroClass.
 theorem zero_mul {α : Type u} [Mul α] (a : WithZero α) : 0 * a = 0 :=
   rfl
-#align with_zero.zero_mul WithZero.zero_mul
+-- Porting note: This lemma and the next one
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Group/WithOne/Defs.lean:242]: Have you looked into why that is? Otherwise maybe leave it for now?

File: Mathlib/Algebra/GroupPower/Basic.lean [hunk 2]
```diff
@@ -135,13 +135,13 @@ theorem Commute.mul_pow {a b : M} (h : Commute a b) (n : ℕ) : (a * b) ^ n = a
   · rw [pow_zero, pow_zero, pow_zero, one_mul]
   · simp only [pow_succ, ih, ← mul_assoc, (h.pow_left n).right_comm]
 #align commute.mul_pow Commute.mul_pow
-#align add_commute.add_smul AddCommute.add_smul
+#align add_commute.add_nsmul AddCommute.add_smul
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/GroupPower/Basic.lean:138]: It turns out these are wrong on the mathlib4 side. Should we fix the names here as well?

File: Mathlib/Algebra/Hom/Equiv/Units/GroupWithZero.lean [hunk 3]
```diff
@@ -33,7 +33,7 @@ protected def mulLeft₀ (a : G) (ha : a ≠ 0) : Perm G :=
 
 theorem mulLeft_bijective₀ (a : G) (ha : a ≠ 0) : Function.Bijective ((· * ·) a : G → G) :=
   (Equiv.mulLeft₀ a ha).bijective
-#align equiv.mul_left_bijective₀ Equiv.mulLeft_bijective₀
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Hom/Equiv/Units/GroupWithZero.lean:36]: Missing `_root_.`? I'm also not sure this is translated correctly.

File: Mathlib/Algebra/Module/Pi.lean [hunk 4]
```diff
@@ -35,7 +35,7 @@ namespace Pi
 theorem IsSMulRegular.pi {α : Type _} [∀ i, SMul α <| f i] {k : α}
     (hk : ∀ i, IsSMulRegular (f i) k) : IsSMulRegular (∀ i, f i) k := fun _ _ h =>
   funext fun i => hk i (congr_fun h i : _)
-#align pi.is_smul_regular.pi Pi.IsSMulRegular.pi
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Module/Pi.lean:38]: Root

File: Mathlib/Algebra/Order/Positive/Ring.lean [hunk 5]
```diff
@@ -40,22 +40,22 @@ theorem coe_add (x y : { x : M // 0 < x }) : ↑(x + y) = (x + y : M) :=
 
 instance addSemigroup : AddSemigroup { x : M // 0 < x } :=
   Subtype.coe_injective.addSemigroup _ coe_add
-#align subtype.add_semigroup Positive.addSemigroup
+#align positive.subtype.add_semigroup Positive.addSemigroup
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Order/Positive/Ring.lean:43]: Is this right?

File: Mathlib/Data/Real/CauSeq.lean [hunk 6]
```diff
@@ -816,13 +816,13 @@ theorem exists_lt (f : CauSeq α abs) : ∃ a : α, const a < f :=
 theorem rat_sup_continuous_lemma {ε : α} {a₁ a₂ b₁ b₂ : α} :
     abs (a₁ - b₁) < ε → abs (a₂ - b₂) < ε → abs (a₁ ⊔ a₂ - b₁ ⊔ b₂) < ε := fun h₁ h₂ =>
   (abs_max_sub_max_le_max _ _ _ _).trans_lt (max_lt h₁ h₂)
-#align cau_seq.rat_sup_continuous_lemma CauSeq.rat_sup_continuous_lemma
+#align rat_sup_continuous_lemma CauSeq.rat_sup_continuous_lemma
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Real/CauSeq.lean:819]: How about this?

File: Mathlib/Logic/Equiv/Option.lean [hunk 7]
```diff
@@ -83,18 +83,20 @@ def removeNone_aux (x : α) : β :=
         intro hn
         rw [Option.not_isSome_iff_eq_none, ← hn] at h
         exact Option.some_ne_none _ (e.injective h)
-
-#align equiv.remove_none_aux Equiv.removeNone_aux
+-- Porting note: private
+-- #align equiv.remove_none_aux Equiv.removeNone_aux
```
Comment (Ruben-VandeVelde) [inline Mathlib/Logic/Equiv/Option.lean:87]: Should we make it private as well

File: Mathlib/Algebra/Group/WithOne/Defs.lean (hunk 1 above)
Comment (rwbarton) [reply Mathlib/Algebra/Group/WithOne/Defs.lean:242]: Well `with_zero.zero_mul` definitely doesn't exist. So it doesn't make a lot of sense for it to have an `#align`, right? regardless of what else is going on?
But we could just leave an erroneous align, as well (it's not like there will be none, after this PR).

File: Mathlib/Algebra/GroupPower/Basic.lean (hunk 2 above)
Comment (rwbarton) [reply Mathlib/Algebra/GroupPower/Basic.lean:138]: There is a separate PR #1502 for that (which will unfortunately have a lot of merge conflicts with this one...)

File: Mathlib/Algebra/Order/Positive/Ring.lean (hunk 5 above)
Comment (rwbarton) [reply Mathlib/Algebra/Order/Positive/Ring.lean:43]: https://leanprover-community.github.io/mathlib_docs/algebra/order/positive/ring.html#positive.subtype.add_semigroup

File: Mathlib/Data/Real/CauSeq.lean (hunk 6 above)
Comment (rwbarton) [reply Mathlib/Data/Real/CauSeq.lean:819]: https://leanprover-community.github.io/mathlib_docs/data/real/cau_seq.html#rat_sup_continuous_lemma

File: Mathlib/Logic/Equiv/Option.lean (hunk 7 above)
Comment (rwbarton) [reply Mathlib/Logic/Equiv/Option.lean:87]: Probably but maybe in a separate PR?

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
